* C:\repositories\e4\e4-tp1\Simulación\Punto 2\Punto 2 (Fuente Buck).asc
V1 N001 0 9V Rser=0.01
R1 Vo Vd 10
L1 N001 Vo 220µH Rser=.65
C1 Vo Vd 39µF Rser=0.23
S1 Vd 0 N002 0 MYSW
V2 N002 0 PULSE(0 1 0 1n 1n 9.674u 20u)
D1 Vd N001 MUR460
.model D D
.lib C:\Users\Rocío Parra\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 1350u 1200u 1ns
.model MYSW SW(Ron=0.000001 Roff=1000Meg Vt=0.5 Vh=0.4)
.model DiodoIdeal D(Ron=0.0001u Roff=1Meg Vfwd=0.8 Vrev=100)
.backanno
.end
